* Z:\mnt\design.r\spice\examples\4120.asc
V1 N001 0 5
R2 N003 N012 1K
R3 N004 N011 1K
D4 0 N011 BZX84C15L
D2 0 N012 BZX84C15L
M2 N003 N011 0 0 Si4470DY
M1 N004 N012 0 0 Si4470DY
C3 N004 N011 10n
C2 N003 N012 10n
D3 N011 N004 BAT54
D1 N012 N003 BAT54
C1 N004 N003 280n
L1 N003 N001 68µ
L2 N001 N004 68µ
L3 N004 N003 5.4µ
L4 N005 0 48.6µ
D6 N006 IN BAT54
D5 0 N006 BAT54
D7 N009 IN BAT54
C6 N009 0 100p
C5 N005 N009 10n
C4 N005 N006 21.3n
C7 IN 0 10µ
R4 IN N013 470K
R5 IN N015 470K
C8 0 N002 2.2µ
R6 N018 0 3.01K
R7 N016 N017 1.35Meg
R8 N014 N016 1.01Meg
L5 N008 N010 33µ
C9 N007 N008 .022µ
C10 N014 0 10µ
C§BATT N014 0 1m
XU1 N002 N007 IN N008 0 N009 N002 N010 N014 N016 N017 0 N018 N013 N015 IN LTC4120 Ttime_out=2m
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L3 L4 .18
.tran 10m startup
.lib LTC4120.sub
.backanno
.end
